US04147872
1-Acetyl-3-[2-acetoxy-4-(1,1-dimethylheptyl)phenyl]piperidine
To a solution of 2.0 g. of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]piperidine in 20 ml. of pyridine at 10° C. is added 20 ml. of acetic anhydride and the mixture stirred under nitrogen for 18 hours. It is then poured onto ice/water and acidified with dilute hydrochloric acid. The product is isolated by extraction with ethyl acetate (2 × 100 ml.). The combined extracts are washed with brine, dried (MgSO4) and evaporated to give the product as an oil.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]piperidine | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CNCCC1)O | C20H33NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-3-[2-acetoxy-4-(1,1-dimethylheptyl)phenyl]piperidine | C(C)(=O)N1CC(CCC1)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OC(C)=O | C24H37NO3
